US06849639B2
3-(3,5-dichloro-2-hydroxyphenyl)-3-{(5-oxo-1-(3-{((2-thienylmethyl)amino)carbonylamino}phenyl)pyrrolidin-3-yl)carbonylamino}propanoic acid
The title compound was analogously synthesized to the preparation of 3-(3-fluorophenyl)-3-{(5-oxo-1-(3-{(benzylamino)carbonylamino}phenyl)pyrrolidin-3-yl)carbonylamino}propanoic acid from ethyl 3-amino-3-(3,5-dichloro-2-hydroxyphenyl)propanoate and 2-thienylmethyl amine. MS (ES+): 591 (M+H)+; (ES−): 589 (M−H)−.

reactant | 3-(3-fluorophenyl)-3-{(5-oxo-1-(3-{(benzylamino)carbonylamino}phenyl)pyrrolidin-3-yl)carbonylamino}propanoic acid | FC=1C=C(C=CC1)C(CC(=O)O)NC(=O)C1CN(C(C1)=O)C1=CC(=CC=C1)NC(=O)NCC1=CC=CC=C1 | C28H27FN4O5
reactant | ethyl 3-amino-3-(3,5-dichloro-2-hydroxyphenyl)propanoate | NC(CC(=O)OCC)C1=C(C(=CC(=C1)Cl)Cl)O | C11H13Cl2NO3
reactant | 2-thienylmethyl amine | S1C(=CC=C1)CN | C5H7NS
product | 3-(3,5-dichloro-2-hydroxyphenyl)-3-{(5-oxo-1-(3-{((2-thienylmethyl)amino)carbonylamino}phenyl)pyrrolidin-3-yl)carbonylamino}propanoic acid | ClC=1C(=C(C=C(C1)Cl)C(CC(=O)O)NC(=O)C1CN(C(C1)=O)C1=CC(=CC=C1)NC(=O)NCC=1SC=CC1)O | C26H24Cl2N4O6S
